US05556878
A 100 mg (0.23 mM) quantity (4S,5R)-N-Boc-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid methyl ester (Preparation 6, 5Ba) is stirred at room temperature under nitrogen in 3 mL MeOH. Added 0.1 mL water and 43 mg (0.31 mM) potassium carbonate. After 1 hour, TLC shows no starting material left. Stored in freezer overnight. The next morning the solvent is evaporated to give (4S,5R)-N-Boc-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid potassium salt (6Ba). The residue is partitioned between methylene chloride and water containing 0.9 mL 1N HCl. The layers are separated and the aqueous layer reextracted with methylene chloride. The organic layers are combined, dried over sodium sulfate and evaporated. This leaves (4S,5R)-N-Boc-2-(2,4-dimethoxyphenyl)-4-phenyl-5oxazolidinecarboxylic acid (7Ba) as a white solid.

reactant | (4S,5R)-N-Boc-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid methyl ester | COC(=O)[C@H]1[C@@H](N(C(O1)C1=C(C=C(C=C1)OC)OC)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H29NO7
reactant | water | 0.1 mL | O | H2O
reactant | potassium carbonate | 0.31 mM, 43 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 3 mL | CO | CH4O
product | (4S,5R)-N-Boc-2-(2,4-dimethoxyphenyl)-4-phenyl-5-oxazolidinecarboxylic acid potassium salt | [K+].C(=O)(OC(C)(C)C)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)[O-])C1=C(C=C(C=C1)OC)OC | InChI=1S/C23H27NO7.K/c1-23(2,3)31-22(27)24-18(14-9-7-6-8-10-14)19(21(25)26)30-20(24)16-12-11-15(28-4)13-17(16)29-5;/h6-13,18-20H,1-5H3,(H,25,26);/q;+1/p-1/t18-,19+,20?;/m0./s1
